2114-09-22 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2114-9-21**] 07:50 PM
   r chest
 MULTI LUMEN - START [**2114-9-21**] 07:50 PM
 BLOOD CULTURED - At [**2114-9-21**] 08:33 PM
 THORACENTESIS - At [**2114-9-21**] 11:58 PM
   [**2114-9-21**]:
   - thoracentesis removed 1.3L fluid
   - BP in the low 80s after thoracentesis, MAP around 65, no intervention
   done
   - received 1 PRBCs
   Allergies:
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-9-22**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 102 (76 - 137) bpm
   BP: 107/70(79) {81/49(54) - 117/79(85)} mmHg
   RR: 24 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                    377 mL
                                                                  3,359 mL
   PO:
           TF:
   IVF:
                                                                    248 mL
                                                                    138 mL
   Blood products:
                                                                    129 mL
                                                                    221 mL
   Total out:
                                                                  1,470 mL
                                                                  1,975 mL
   Urine:
                                                                  1,470 mL
                                                             (75-100cc/hr)
                                                                    675 mL
   NG:
   Stool:
   Drains:
   1,300 mL
   Balance:
                                                                 -1,093 mL
                                                                  1,384 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 296 (296 - 424) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.34/42/96.[**Numeric Identifier 274**]/22/-2
   Ve: 7.4 L/min
   PaO2 / FiO2: 242
   ABG (most recent): 7.38/37/89/23
   Physical Examination
   General: Sitting up in bed, alert
   HEENT: Sclera anicteric, ETT in place
   Neck: JVP not elevated, no LAD
   Lungs: Coarse breath sounds with decreased breath sounds bilaterally at
   bases, no wheezes, occasional ronchi, transmitted upper airway noises.
   Right chest wall port without erythema or induration
   CV: Regular, S1 and S2 with S3 appreciated, no murmurs or rubs
   Abdomen:  soft, non-tender, non-distended, +BS, cystic ventral lesion
   GU: Foley in place
   Ext: warm, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   325 K/uL
   8.5 g/dL
   131 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.9 mEq/L
   21 mg/dL
   102 mEq/L
   136 mEq/L
   25.6 %
   16.4 K/uL
        [image002.jpg]
                             [**2114-9-21**]  08:07 PM
                             [**2114-9-21**]  08:55 PM
                             [**2114-9-22**]  02:19 AM
   WBC
   18.9
   16.4
   Hct
   23.1
   25.6
   Plt
   401
   325
   Cr
   1.1
   1.1
   TropT
   0.48
   0.35
   TCO2
   24
   Glucose
   164
   131
   Other labs
   Differential-Neuts:93.8 %, Lymph:3.3 %, Mono:2.6 %, Eos:0.2 %,:
   PT / PTT / INR:14.2/28.8/1.2,
   CK / CKMB / Troponin-T:81/10/0.35, BNP: 1635*
   ALT / AST:219/284 (258/420), Alk Phos / T Bili:227/0.6 (255/0.6),
   Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:412 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Free Ca: 0.99
   U/A: pH 5.0, Neg bld, nitrite, pr, glc, ketone, bili, urobili, leuk
   Pleural Fluid:
   WBC 470, RBC [**Numeric Identifier 8091**], Polys 28%, bands 1, lymph 33, monos 32, macros 6
   TP 4.9, Glc 142, LDH 335
   335/412= .81
   [**2-20**] (335)=221.1
   MICRO:
   Urine Legionella ag pending
   Urine, Bld cx x3 pending
   Pleural fluid cx pending
Pleural fluid GRAM STAIN (Final [**2114-9-22**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   CXR Today
   Assessment and Plan
   Assessment and Plan:
   Ms. [**Known lastname 8077**] is a 47n year old female with progressive recurrent stage
   IIIC ovarian versus fallopian tube cancer, status-post optimal
   cytoreductive surgery and numerous chemotherapy regimens presenting
   with acute respiratory distress after recieving placitaxel.
   .
   #) Respiratory Distress: Not completely clear what triggered her acute
   respiratory distress. She does have underlying pleural effusions, so
   likely has poor reserve to tolerate any additional demand. Differential
   includes flash pulmonary edema from IVF and infusion versus reaction to
   paclitaxel versus pulmonary embolism or any of the above with possible
   underlying infection given history of fevers and cough. Anaphylaxis
   appears to be less likely given lack of vasodilatory response (no
   hives, hypotension, edema), however other types of reactions are
   possible such as ARDS-like reaction. Also could have been primary
   cardiac arrhythmia leading to poor forward flow given SVT versus sinus
   tachycardia on 2nd ED EKG.
   Currently appears to be comfortable on pressure support with
   satisfactory ABG. No history of CHF with relatively unremarkable [**Name (NI) **] in
   3/[**2114**].
   - Continue pressure support ventilation overnight, weaning Fi02 and
   PEEP as tolerated.
   - Lighten her current minimal sedation for SBT and RSB in AM for
   possible extubation
   - Hold off on further IVF given enlarging pleural effusions
   - Diuresis if needed and tolerated by BP, sending BNP
   - Trending cardiac enzymes
   - Continue antibiotic coverage for now given leukocytosis, report of
   fevers, elevated lactate for possible PNA
   - Likely thoracentesis for therapeutic and diagnostic purposes (given
   leukocytosis, question of pulmonary infection given cough, fevers),
   either tonight or possibly post-extubation
   - Repeat ABG now
   - Would consider repeat [**Year (4 digits) **] if above unrevealing, given question of CHF
   with IVF today.
   .
   #) Hypotension: After increasing sedation, MAP currently at 60 with
   systolic of 80. Suspect this is in part due to sedation, however must
   be mindful of other causes.
   - Infectious work up as noted below.
   - Cycle cardiac enzymes
   - Would consider stress dose steroids, though does not appear that she
   has been on continuous steroids
   - Follow lactate, urine output, unable to follow CVP but can check SvO2
   off of her port.
   - [**Month (only) 11**] place a-line for better monitoring of BP and ABG's.
   - PRBCs for now in lieu of IVF to help expand intravascular space for
   goal MAP >65. If MAP not at goal, would then consider IVF versus
   pressors.
   .
   #) Tachycardia: Resolved. Suspect this was due to stress of respiratory
   event versus SVT, though sinus appears more likely. She was initially
   tachycardic upon presentation to the outpatient clinic which may have
   been due to respiratory distress, possible intra-vascular hypovolemic
   state.
   - Working to reserve above causing, treating pain, PRBCs as discussed
   below
   .
   #) Reported fevers, leukocytosis: Differential includes secondary to
   progressive disease versus infectious process. Differential on WBC is
   more suggestive of infectious process, however no bands and is lower
   than previous leukocytosis dating from [**Month (only) 319**]. She does have indwelling
   port as another potential source of infection, as well as cough and
   atelectasis versus consolidation on CT.
   - Blood, urine, sputum cultures if possible.
   - Continue empiric broad coverage given leukocytosis as noted above;
   will need to determine further details of PCN allergy. Vancomycin for
   now given indwelling port and frequent healthcare visits.
   .
   #) Anemia: Given elevated lactate, tachycardia, will transfuse given
   question of demand ischemia with tropnin leak and borderline blood
   pressure. Suspect due to chronic disease and chemotherapy.
   - 1 unit PRBCs for now, re-check HCT in AM
   - Guaiac stools.
   .
   #) Stage IIIC Ovarian versus fallopian tube cancer: Status-post
   numerous procedures and chemotherapy regimens. Discussed events at
   clinic, her course, and her social situation with her oncology fellow
   tonight. They will follow along with us; they reported the family is
   very involved and communication with parents is best via Russian
   interpreter.
   - Appreciate oncology assistance.
   .
   #) Elevated LFTs: Suggestive of liver injury, not obstructive picture.
   Earlier in the day, were close to normal range aside from elevated
   alkaline phosphate. Elevation this evening suggestive of low flow state
   with possible hepatic injury, though creatinine is improved as compared
   to earlier today (however did have elevated lactate). She has known
   liver metaseses as well.
   - Follow trend
   - Holding hepatotoxic agents
   .
   #) Elevated troponin: CK remains flat. In setting of marked tachycardia
   and respiratory distress, suspect this is due to demand with subsequent
   troponin leak.
   - Will continue to trend enzymes
   - Monitor pain, fluid status to improve HR (currently in 90's)
   - Follow up EKG
   - ASA 325 mg daily
   .
   #) FEN: Holding off on IVF, replete electrolytes, regular diet
   .
   #) Prophylaxis: Subutaneous heparin, PPI (on at home and for while
   intubated)
   .
   #) Access: Right-sided chest port, right groin triple lumen placed in
   ED, one peripheral line
   .
   #) Code:  Full (as discussed with patient by primary oncology team)
   .
   #) Communication: [**Name (NI) **] father, [**Name (NI) **] [**Telephone/Fax (1) 8080**]
   .
   #) Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2114-9-21**] 07:50 PM
   Multi Lumen - [**2114-9-21**] 07:50 PM
   18 Gauge - [**2114-9-21**] 07:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2114-09-23 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - extubated successfully
   - post-extubation ABG: pH 7.38 pCO2 37 pO2 89 HCO3 23 Lactate:1.1
   - PM CXR: There is marked volume loss in both lower lungs that has
   increased compared to the prior study. It is unclear if the opacity in
   both lower lungs is due to volume loss or underlying infiltrate.
   - Onc recs: saw none today
   - advanced to regular diet
   - WBC bumped up to 30, now 20, been afebrile
   - central line dc
   Allergies:
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2114-9-22**] 08:00 AM
   Cefipime - [**2114-9-23**] 12:39 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-9-23**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 109 (95 - 117) bpm
   BP: 101/65(73) {85/55(62) - 117/86(91)} mmHg
   RR: 30 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,510 mL
                                                                    129 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    499 mL
                                                                    129 mL
   Blood products:
                                                                    221 mL
   Total out:
                                                                  2,745 mL
                                                                    260 mL
   Urine:
                                                                  1,445 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
                                                                  1,300 mL
   Balance:
                                                                  1,765 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.38/37/89.[**Numeric Identifier 433**]/25/-2
   PaO2 / FiO2: 223
   Physical Examination
   General: Sitting up in bed, alert
   HEENT: Sclera anicteric, ETT in place
   Neck: JVP not elevated, no LAD
   Lungs: Coarse breath sounds with decreased breath sounds bilaterally at
   bases, no wheezes, occasional ronchi, transmitted upper airway noises.
   Right chest wall port without erythema or induration
   CV: Regular, S1 and S2 with S3 appreciated, no murmurs or rubs
   Abdomen:  soft, non-tender, non-distended, +BS, cystic ventral lesion
   GU: Foley in place
   Ext: warm, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   289 K/uL
   8.5 g/dL
   121 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.3 mEq/L
   24 mg/dL
   104 mEq/L
   138 mEq/L
   25.6 %
   14.9 K/uL
        [image002.jpg]
                             [**2114-9-21**]  08:07 PM
                             [**2114-9-21**]  08:55 PM
                             [**2114-9-22**]  02:19 AM
                             [**2114-9-22**]  08:06 AM
                             [**2114-9-22**]  12:58 PM
                             [**2114-9-22**]  09:10 PM
                             [**2114-9-23**]  04:05 AM
   WBC
   18.9
   16.4
   30.3
   23.8
   14.9
   Hct
   23.1
   25.6
   25.7
   27.4
   25.6
   Plt
   [**Telephone/Fax (3) 8115**]50
   289
   Cr
   1.1
   1.1
   0.9
   TropT
   0.48
   0.35
   0.17
   TCO2
   24
   23
   Glucose
   164
   131
   121
   Other labs: Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
                                                                [**2114-9-22**]
                                                                     9:10p
   _______________________________________________________________________
   Source: Line-port
   94
                                                                      23.8
                                                            [image004.gif]
                                     8.9
   [image006.gif]
   350
                                   [image008.gif]
   [image006.gif]
                                    27.4
   [image004.gif]
   N:91.0 L:4.9 M:3.8 E:0.1 Bas:0.1
                                                                [**2114-9-22**]
                                                                    12:58p
   _______________________________________________________________________
   Source: Line-CVL
   CK: 93
   MB: 9
   Trop-T: 0.17
   Comments:
   cTropnT: Ctropnt > 0.10 Ng/Ml Suggests Acute Mi
   ALT: 181
   AP: 204
   Tbili: 0.5
   Alb:
   AST: 127
   LDH: 434
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   Source: Line-CVL
   92
                                                                  30.3
                                                            [image004.gif]
                                     8.7
   [image006.gif]
   310
                                   [image008.gif]
   [image006.gif]
                                    25.7
   [image004.gif]
   N:93.4 L:2.7 M:3.6 E:0.1 Bas:0.2
[**2114-9-21**] 11:40 pm PLEURAL FLUID
GRAM STAIN (Final [**2114-9-22**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
FLUID CULTURE (Preliminary):
ANAEROBIC CULTURE (Preliminary):
FUNGAL CULTURE (Preliminary):
Urine legionella neg
Blood and urine cx NTD
   CXR:
   Assessment and Plan
   Assessment and Plan:
   Ms. [**Known lastname 8077**] is a 47n year old female with progressive recurrent stage
   IIIC ovarian versus fallopian tube cancer, status-post optimal
   cytoreductive surgery and numerous chemotherapy regimens presenting
   with acute respiratory distress after recieving placitaxel.
   .
   #) Respiratory Distress: Not completely clear what triggered her acute
   respiratory distress. She does have underlying pleural effusions, so
   likely has poor reserve to tolerate any additional demand. Differential
   includes flash pulmonary edema from IVF and infusion versus reaction to
   paclitaxel versus pulmonary embolism or any of the above with possible
   underlying infection given history of fevers and cough. Anaphylaxis
   appears to be less likely given lack of vasodilatory response (no
   hives, hypotension, edema), however other types of reactions are
   possible such as ARDS-like reaction. Also could have been primary
   cardiac arrhythmia leading to poor forward flow given SVT versus sinus
   tachycardia on 2nd ED EKG.
   Currently appears to be comfortable on pressure support with
   satisfactory ABG. No history of CHF with relatively unremarkable [**Name (NI) **] in
   3/[**2114**].
   - Plan to extubate today
   - Hold off on further IVF given enlarging pleural effusions
   - Diuresis if needed and tolerated by BP
   - Continue antibiotic coverage for now given leukocytosis, report of
   fevers, elevated lactate for possible PNA
   - Repeat ABG after extubation
   - Consider repeat [**Year (4 digits) **] if above unrevealing, given question of CHF with
   IVF today.
   .
   #) Hypotension: After increasing sedation, MAP currently at 60 with
   systolic of 80. Suspect this is in part due to sedation, however must
   be mindful of other causes.
   - Evaluate BP after extubation
   - Follow lactate, urine output, unable to follow CVP but can check SvO2
   off of her port.
   - [**Month (only) 11**] place a-line for better monitoring of BP and ABG's.
   - If MAP not at goal, would then consider IVF versus pressors.
   .
   #) Tachycardia: Resolved. Suspect this was due to stress of respiratory
   event versus SVT, though sinus appears more likely. She was initially
   tachycardic upon presentation to the outpatient clinic which may have
   been due to respiratory distress, possible intra-vascular hypovolemic
   state.
   - Continue pain control
   - Maintain Hct>25
   .
   #) Reported fevers, leukocytosis: Differential includes secondary to
   progressive disease versus infectious process. Differential on WBC is
   more suggestive of infectious process, however no bands and is lower
   than previous leukocytosis dating from [**Month (only) 319**]. She does have indwelling
   port as another potential source of infection, as well as cough and
   atelectasis versus consolidation on CT.
   - Continue vancomycin and cefepime for now given indwelling port and
   frequent healthcare visits
   - Blood, urine, and sputum cultures pending
   .
   #) Anemia: Given elevated lactate, tachycardia, will transfuse given
   question of demand ischemia with tropnin leak and borderline blood
   pressure. Suspect due to chronic disease and chemotherapy. Hct goal
   >25.
   - Monitor Hb/Hct
   - Guaiac stools.
   .
   #) Stage IIIC Ovarian versus fallopian tube cancer: Status-post
   numerous procedures and chemotherapy regimens. Discussed events at
   clinic, her course, and her social situation with her oncology fellow
   tonight. They will follow along with us; they reported the family is
   very involved and communication with parents is best via Russian
   interpreter.
   - Appreciate oncology assistance.
   .
   #) Elevated LFTs: Suggestive of liver injury, not obstructive picture.
   Earlier in the day, were close to normal range aside from elevated
   alkaline phosphate. Elevation this evening suggestive of low flow state
   with possible hepatic injury, though creatinine is improved as compared
   to earlier today (however did have elevated lactate). She has known
   liver metaseses as well.
   - Follow trend
   - Holding hepatotoxic agents
   .
   #) Elevated troponin: CK remains flat. In setting of marked tachycardia
   and respiratory distress, suspect this is due to demand with subsequent
   troponin leak.
   - Will continue to trend enzymes
   - Monitor pain, fluid status to improve HR (currently in 90's)
   - Follow up EKG
   - ASA 325 mg daily
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2114-9-21**] 07:50 PM
   18 Gauge - [**2114-9-21**] 07:51 PM
   Prophylaxis:
   DVT:
   Subutaneous heparin
   Stress ulcer: PPI (on at home and for while intubated)
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) **] father, [**Name (NI) **] [**Telephone/Fax (1) 8080**]
   [**Name2 (NI) 129**] status: Full (as discussed with patient by primary oncology team)
   Disposition: pending clinical improvement